US04077982
5-Benzyloxy-2-(3-methoxyphenyl)-1,3-dioxane
Using the method of Example 16, 2-benzyloxy-1,3-propane-diol (18.0 g, 0.1 mole), and 3-methoxybenzaldehyde (13.6 g, 0.1 mole) were reacted to give 26.0 g of oil which was distilled at 1 × 10-4 mm to give 20.2 g of product which distilled at a pot temperature of 200°-206° C. nmr analysis of this product indicated it to contain 37% cis-5-benzyloxy-2-(3-methoxyphenyl)-1,3-dioxane.

reactant | 2-benzyloxy-1,3-propane-diol | 0.1 mole, 18.0 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | 3-methoxybenzaldehyde | 0.1 mole, 13.6 g | COC=1C=C(C=O)C=CC1 | C8H8O2
product | 5-Benzyloxy-2-(3-methoxyphenyl)-1,3-dioxane | 26.0 g | C(C1=CC=CC=C1)OC1COC(OC1)C1=CC(=CC=C1)OC | C18H20O4
